* C:\Users\evech\OneDrive\Bureau\formation FPGA AVRIL 2023\test3.asc
V1 V1 0 PULSE(5 0 0 10ns 10ns 1ms 2ms 0)
V2 V2 0 PULSE(5 0 0 10ns 10ns 2ms 4ms 0)
V3 P001 0 5v
M2 P002 V2 out out NMOS
M3 0 V2 out out PMOS
M4 0 V1 out out PMOS
M1 P001 V1 P002 P002 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\evech\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20ms
.backanno
.end
